* C:\FOSSEE2\eSim\library\SubcircuitLibrary\SC_M74HCT245\SC_M74HCT245.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/18/25 17:39:10

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U4  Net-_U1-Pad4_ Net-_U10-Pad2_ Net-_U1-Pad16_ d_tristate		
U8  Net-_U15-Pad3_ Net-_U10-Pad2_ Net-_U1-Pad15_ d_tristate		
U9  Net-_U1-Pad6_ Net-_U10-Pad2_ Net-_U1-Pad14_ d_tristate		
U5  Net-_U1-Pad7_ Net-_U10-Pad2_ Net-_U1-Pad13_ d_tristate		
U6  Net-_U1-Pad8_ Net-_U10-Pad2_ Net-_U1-Pad12_ d_tristate		
U7  Net-_U1-Pad9_ Net-_U10-Pad2_ Net-_U1-Pad11_ d_tristate		
U3  Net-_U1-Pad3_ Net-_U10-Pad2_ Net-_U1-Pad17_ d_tristate		
U10  Net-_U1-Pad2_ Net-_U10-Pad2_ Net-_U1-Pad18_ d_tristate		
U16  Net-_U1-Pad16_ Net-_U12-Pad3_ Net-_U1-Pad4_ d_tristate		
U15  Net-_U1-Pad15_ Net-_U12-Pad3_ Net-_U15-Pad3_ d_tristate		
U17  Net-_U1-Pad14_ Net-_U12-Pad3_ Net-_U1-Pad6_ d_tristate		
U18  Net-_U1-Pad13_ Net-_U12-Pad3_ Net-_U1-Pad7_ d_tristate		
U19  Net-_U1-Pad12_ Net-_U12-Pad3_ Net-_U1-Pad8_ d_tristate		
U20  Net-_U1-Pad11_ Net-_U12-Pad3_ Net-_U1-Pad9_ d_tristate		
U14  Net-_U1-Pad17_ Net-_U12-Pad3_ Net-_U1-Pad3_ d_tristate		
U13  Net-_U1-Pad18_ Net-_U12-Pad3_ Net-_U1-Pad2_ d_tristate		
U2  Net-_U1-Pad19_ Net-_U11-Pad2_ d_inverter		
U11  Net-_U1-Pad1_ Net-_U11-Pad2_ Net-_U10-Pad2_ d_and		
U12  Net-_U1-Pad19_ Net-_U1-Pad1_ Net-_U12-Pad3_ d_nor		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ ? Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ ? Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ ? PORT		

.end
